Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amlodipine / atorvastatin / lisinopril / pravastatin / 
rosuvastatin
 
Attending: ___.
 
Chief Complaint:
Abnormal LFTs and abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical history 
notable for DM, HTN, admitted for observation post ERCP after 
CBD stone removal and sphincterotomy and sphincteroplasty.  He 
initially presented to his PCP several weeks ago for right-sided 
flank pain, which was constant and severe in nature.  At his 
PCP's visit, labs were notable for elevated LFTs.  He 
subsequently underwent an MRCP which reportedly demonstrated a 
CBD stone so was referred here for ERCP.  He had no f/c/s, 
n/v/abd pain, jaundice, bowel or urinary changes prior to 
admission.  

ROS: Pertinent positives and negatives as noted in the HPI.  
Full 14-system ROS otherwise negative. 

 
Past Medical History:
- Non-insulin-dependent diabetes with neuropathy 
- Hypertension  
- Hyperlipidemia  
- Chronic dyspnea on exertion  
- Gastritis
- Status post meningioma resection  
- Chronic low back pain  
- Morbid obesity  
- Obstructive sleep apnea without CPAP  
- Osteopenia
- h/o TKR
- s/p CCY
 
Social History:
___
Family History:
No h/o known cancer 
 
Physical Exam:
DISCHARGE EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
DISCHARGE LABS
___ 06:15AM BLOOD WBC-5.9 RBC-4.45* Hgb-13.0* Hct-39.3* 
MCV-88 MCH-29.2 MCHC-33.1 RDW-13.8 RDWSD-44.8 Plt ___
___ 06:15AM BLOOD Glucose-106* UreaN-12 Creat-1.0 Na-140 
K-4.5 Cl-99 HCO3-29 AnGap-12
___ 06:15AM BLOOD ALT-21 AST-19 AlkPhos-101 TotBili-0.4

ERCP ___ (paraphrased report)
Large ___ diverticulum.
Cholangiogram: 8 mm CBD, s/p CCY; one large filling defect in 
the CBD suggestive of stone. 
Sphincterotomy and sphincteroplasty performed.
Single oval 8 mm stone removed with balloon sweep, otherwise 
clean. 

 
Brief Hospital Course:
___ w/ obesity, HTN, DM2, seizure disorder, prior CCY in ___, 
recent diagnosis of choledocholithiasis, admitted after ERCP w/ 
sphincterotomy.

#Choledocholithiasis 
The patient underwent uncomplicated ERCP with sphincterotomy and 
sphincteroplasty, then extraction of an 8 mm stone. He had mild 
pain overnight after the procedure, but was pain free and 
tolerating PO intake the following morning. Labs normal the 
following morning. No NSAIDs or ASA for 5 days. 

CHRONIC/STABLE PROBLEMS:
# DM II: resume metformin and glipizide at discharge
# HTN - continue ___
# HL - continue statin
# h/o seizure d/o - continue keppra

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. LevETIRAcetam 750 mg PO BID 
4. Omeprazole 40 mg PO DAILY 
5. Simvastatin 5 mg PO QPM 
6. GlipiZIDE XL 2.5 mg PO DAILY 
7. Losartan Potassium 25 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q4H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  GlipiZIDE XL 2.5 mg PO DAILY  
5.  LevETIRAcetam 750 mg PO BID  
6.  Losartan Potassium 25 mg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Omeprazole 40 mg PO DAILY  
9.  Simvastatin 5 mg PO QPM  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had a gallstone stuck in your bile duct. This was retrieved 
with an ERCP procedure. We also opened up the exit to the bile 
duct (sphincterotomy) to decrease the chance that a stone will 
get stuck again in the future.

Do not take any medications that increase risk of bleeding for 
the next week. This includes aspirin and any over-the-counter 
pain medications besides acetaminophen.  

You may eat normally as tolerated. ___ drink alcohol for 2 
days after the procedure.

You may have a sore throat for 1 to 2 days after the procedure. 
If this bothers you, you may use throat lozenges or an 
over-the-counter phenol throat spray (Chloraseptic, or similar). 
 

Most patients recover very well from this procedure and do not 
need any specific post-procedure follow up. However, if you have 
any issues or concerns, please call the ___ 
clinic at ___.  

Rarely patients may have serious infection or bleeding after 
this procedure; if you have bloody or black tarry stools, feel 
lightheaded and like you might pass out, have fevers or chills, 
or get severe or worsening abdominal pain please return to the 
emergency room for evaluation. 

 
Followup Instructions:
___